US07635715B2
Step B: Preparation of 1,1-Dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclopentane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate
A mixture of ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclopentane-1,1′-naphthalen]-3′-carboxylate (0.66 g, 2 mmol) and glycine tert-butyl ester hydrochloride (0.5 g, 3 mmol) in 10 mL dioxane was treated with DIPEA (1 mL, 6 mmol). The mixture was warmed to 85° C. and stirred for 4 hours, M+1=406. The mixture was then cooled to room temperature and concentrated in vacuo. The crude product was purified by column chromatography eluting with 10-30% EtOAc hexane to give the title compound (0.8 g) as a pale yellow solid. MS (m/z)=406 (M+Na)+.

reactant | ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclopentane-1,1′-naphthalen]-3′-carboxylate | 2 mmol, 0.66 g | ClC=1C=C2C(=C(C(C3(C2=CC1)CCCC3)=O)C(=O)OCC)O | C17H17ClO4
reactant | glycine tert-butyl ester hydrochloride | 3 mmol, 0.5 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | DIPEA | 6 mmol, 1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclopentane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate | 0.8 g | ClC=1C=C2C(=C(C(C3(C2=CC1)CCCC3)=O)C(=O)NCC(=O)OC(C)(C)C)O | C21H24ClNO5
